US08097610B2
Preparation of [3-[[[1-(6-chlorobenzothiazole-2-yl)piperidine-4-yl]isopropylamino]methyl]phenyl]acetic acid
A mixture of [3-[[[1-(6-chlorobenzothiazole-2-yl)piperidine-4-yl]isopropylamino]methyl]phenyl]acetic acid methyl ester (90 mg), 2N sodium hydroxide (0.5 mL), tetrahydrofuran (2 mL) and methanol (1 mL) was stirred at room temperature for 1 hour. After neutralizing with 2N hydrochloric acid, the reaction solution was concentrated under reduced pressure and extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over magnesium sulphate. The solvent was evaporated under reduced pressure and the residue was purified by column chromatograph on silica gel to give the title compound (28 mg).

reactant | [3-[[[1-(6-chlorobenzothiazole-2-yl)piperidine-4-yl]isopropylamino]methyl]phenyl]acetic acid methyl ester | 90 mg | COC(CC1=CC(=CC=C1)CN(C(C)C)C1CCN(CC1)C=1SC2=C(N1)C=CC(=C2)Cl)=O | C25H30ClN3O2S
reactant | sodium hydroxide | 2N, 0.5 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
product | [3-[[[1-(6-chlorobenzothiazole-2-yl)piperidine-4-yl]isopropylamino]methyl]phenyl]acetic acid | 28 mg, Yield: 32% | ClC1=CC2=C(N=C(S2)N2CCC(CC2)N(C(C)C)CC=2C=C(C=CC2)CC(=O)O)C=C1 | C24H28ClN3O2S
